US07772226B2
(h) t-Butyl 4-[1-(2-butynyl)-6-methyl-7-oxo-6,7-dihydro-1H-imidazo[4,5-d]pyridazin-2-yl]piperazine-1-carboxylate
0.05 ml of methylhydrazine was added to a 2.5-ml ethanol solution of 0.055 g of t-butyl 4-[1-(2-butynyl)-5-ethoxycarbonyl-4-formyl-1H-imidazol-2-yl]piperazine-1-carboxylate. The mixture was stirred at 80° C. for 15 hours, and then heated at 130° C. for 14 hours. The reaction solution was concentrated under reduced pressure. Then, the residue was purified by silica gel column chromatography. Thus, 0.035 g of the title compound was obtained from the fraction eluted with hexane-ethyl acetate (1:1).

reactant | methylhydrazine | 0.05 ml | CNN | CH6N2
reactant | t-butyl 4-[1-(2-butynyl)-5-ethoxycarbonyl-4-formyl-1H-imidazol-2-yl]piperazine-1-carboxylate | 0.055 g | C(C#CC)N1C(=NC(=C1C(=O)OCC)C=O)N1CCN(CC1)C(=O)OC(C)(C)C | C20H28N4O5
solvent | ethanol | 2.5-ml | C(C)O | C2H6O
product | t-Butyl 4-[1-(2-butynyl)-6-methyl-7-oxo-6,7-dihydro-1H-imidazo[4,5-d]pyridazin-2-yl]piperazine-1-carboxylate | 0.035 g | C(C#CC)N1C(=NC2=C1C(N(N=C2)C)=O)N2CCN(CC2)C(=O)OC(C)(C)C | C19H26N6O3
